US09238639B2
B) 4-Formyl-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate
To a mixture of 3-(2-methoxy-2-oxoethyl)-4-vinyl-1-benzothiophen-6-yl pivalate (480 mg), acetone (500 μL), water (500 μL) and CH3CN (500 μL) were added OsO4 (7% microcapsule, 524 mg) and NMO (507 mg) at room temperature. The mixture was stirred at room temperature for 20 h. The insoluble material was removed by filtration, and the filtrate was concentrated in vacuo. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. To a mixture of the residue, THF (3 mL) and water (3 mL) was added NaIO4 (403 mg, 1.88 mmol) at room temperature. After stirring at room temperature for 1 h, the m mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (152 mg).

reactant | 3-(2-methoxy-2-oxoethyl)-4-vinyl-1-benzothiophen-6-yl pivalate | 480 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=C | C18H20O4S
reactant | acetone | 500 μL | CC(=O)C | C3H6O
reactant | NMO | 507 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | OsO4 | 524 mg | O=[Os](=O)(=O)=O
solvent | water | O | H2O
solvent | CH3CN | 500 μL | CC#N | C2H3N
solvent | water | 500 μL | O | H2O
product | 4-Formyl-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate | 152 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=O | C17H18O5S
